US06313132B1
28.2 (R)-N,N-Diisopropyl-3-[2-hydroxy-5-(4-methylphenylazo)phenyl]-3-phenylpropanamine
NaNO2 (0.27 g, 4.30 mmol) was added to a mixture of hydrochloric acid (0.64 mL, 7.70 mmol, conc.) and p-methylaniline (0.41 g, 3.80 mmol) in ice-water (20 mL). The mixture was stirred at 0° C. for 10 min. and then added to an ice-cold solution of (R)-N,N-diisopropyl-3-(2-hydroxyphenyl)-3-phenylpropanamine (1.00 g, 3.21 mmol) in THF (3 mL), H2O (12 mL) and sodium hydroxide (0.69 g, 17.32 mmol). After stirring the mixture for 20 minutes, it was extracted with toluene, dried (MgSO4), and evaporated to give an oil, which was chromatographed on (toluene-ethyl acetate-triethylamine 8:1:1) to give 0.83 g, 1.93 mmol, (60%) of the title compound. 1H NMR (CDCl3) δ1.12 (d, 6H), 1.19 (d, 6H), 2.22 (m, 1H), 2.43 (m, 5H), 2.79 (m, 1H), 3.32 (m, 2H), 4.57 (d, 1H), 6.98 (d, 1H), 7.24 (m, 3H), 7.36 (m, 4H), 7.66 (m, 4H).

reactant | NaNO2 | 4.30 mmol, 0.27 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 7.70 mmol, 0.64 mL | Cl | ClH
reactant | p-methylaniline | 3.80 mmol, 0.41 g | CC1=CC=C(N)C=C1 | C7H9N
reactant | (R)-N,N-diisopropyl-3-(2-hydroxyphenyl)-3-phenylpropanamine | 3.21 mmol, 1.00 g | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC=C1)O)C(C)C | C21H29NO
reactant | sodium hydroxide | 17.32 mmol, 0.69 g | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | 12 mL | O | H2O
product | (R)-N,N-Diisopropyl-3-[2-hydroxy-5-(4-methylphenylazo)phenyl]-3-phenylpropanamine | 60% | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)N=NC1=CC=C(C=C1)C)O)C(C)C | C28H35N3O
